US07109354B2
a) 3-Hydroxymethyl-2-methyl-phenylboronic acid
Butyllithium (2.5 M, 4 mL, 10 mmol), 3-iodo-4-methyl-benzyl alcohol (1 g, 4 mmol), and trimethylborate (6 mL, 53 mmol) were reacted as in Example 5: step b. Aqueous workup and purification by SiO2 flash chromatography (40–50% EtOAc in hexanes) yielded the title compound (180 mg, 27%). The title compound exists as a mixture of boronic acids and anhydrides in CDCl3, therefore the reported NMR signals represent pairs or groups of related signals. 1H-NMR (CDCl3): δ 7.06–7.30 (m, 3H), 4.56 (s, 3H), 4.16 (br s, 1H), 2.32 (s, 3H).

reactant | Butyllithium | 10 mmol, 2.5 M, 4 mL | C(CCC)[Li]
reactant | 3-iodo-4-methyl-benzyl alcohol | 4 mmol, 1 g | IC=1C=C(CO)C=CC1C | C8H9IO
reactant | trimethylborate | 53 mmol, 6 mL | COB(OC)OC | C3H9BO3
product | 3-Hydroxymethyl-2-methyl-phenylboronic acid | 180 mg, 27% | OCC=1C(=C(C=CC1)B(O)O)C | C8H11BO3
